scheMAGIC Simulator document 3f035c8efc1ab4f2
* document-hash 3f035c8efc1ab4f2
V1 vin 0 SIN(0 1 11.254meg) AC 1 $ component:c1
R2 vin oc_ac_c2 50 $ component:c2
VOCSc2 oc_ac_c2 n1 0 $ component:c2
C_XTAL_c3_P n1 vout 3p $ component:c3
R_XTAL_c3_S n1 oc_y3_a 30 $ component:c3
L_XTAL_c3_S oc_y3_a oc_y3_b 10m $ component:c3
C_XTAL_c3_S oc_y3_b vout 20f $ component:c3
R4 vout oc_ac_c4 1k $ component:c4
VOCSc4 oc_ac_c4 0 0 $ component:c4
.save all v1#branch vocsc2#branch vocsc4#branch
.ac dec 100000 11200000 11300000
.end
